### PR TITLE
feature(Data/Finset/RangeDistance): abs_sub_lt_of_mem_finset_range

### PR DESCRIPTION
**Pull request by mans0954**
The distance between two elements of `Finset.range N` (i.e. absolute value of the difference as integers) is less than `N`.

A lemma I found useful for something I was working on, so sharing here in case it's of wider interest.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/RangeDistance.lean [hunk 1]
```diff
@@ -0,0 +1,25 @@
...
+-/
+
+open Finset
+
+lemma abs_sub_lt_of_mem_finset_range {N n m : ℕ} (hn : n ∈ range N) (hm : m ∈ range N) :
+    |n - (m : ℤ)| < N := by
+  rw [← max_sub_min_eq_abs', sub_lt_iff_lt_add, ← Lean.Omega.Int.ofNat_max,
+    ← Lean.Omega.Int.ofNat_min]
+  norm_cast
+  exact Nat.lt_add_right (n ⊓ m) (sup_lt_iff.mpr ⟨List.mem_range.mp hn, List.mem_range.mp hm⟩)
```
Comment (fbarroero) [inline Mathlib/Data/Finset/RangeDistance.lean:25]:
```suggestion
  rw [← max_sub_min_eq_abs']
  rw [mem_range] at hn hm
  omega
```

**Comment by mans0954** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26347
